US09227930B2
193.8 Ethyl 6-(2-aminoethoxy)-1-benzyl-2,3-dihydro-1H-inden-2-ylcarbamate
A suspension of ethyl 1-benzyl-6-hydroxy-2,3-dihydro-1H-inden-2-ylcarbamate (620 mg, 1.991 mmol) and caesium carbonate (1298 mg, 3.98 mmol) in acetonitrile (15 ml) was stirred at 80° C. under argon for 1 h, cooled down to 50° C. and tert-butyl 2-bromoethylcarbamate (669 mg, 2.99 mmol) dissolved in acetonitrile was slowly added. Stirred at 80° C. for 2 h. Evaporated acetonitrile, re-dissolved in dichloromethane, washed with water, co-extracted aqueous layer twice with dichloromethane and the combined organic layers were dried, filtered and evaporated and purified by flash silica gel chromatography on 40 g SiO2-cartridge using 30% ethyl acetate in cyclohexane to afford the titled compound as a brown oil. m=624 mg

reactant | ethyl 1-benzyl-6-hydroxy-2,3-dihydro-1H-inden-2-ylcarbamate | 1.991 mmol, 620 mg | C(C1=CC=CC=C1)C1C(CC2=CC=C(C=C12)O)NC(OCC)=O | C19H21NO3
reactant | caesium carbonate | 3.98 mmol, 1298 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 2-bromoethylcarbamate | 2.99 mmol, 669 mg | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 6-(2-aminoethoxy)-1-benzyl-2,3-dihydro-1H-inden-2-ylcarbamate | NCCOC1=CC=C2CC(C(C2=C1)CC1=CC=CC=C1)NC(OCC)=O | C21H26N2O3
